US05409943
(c) N-[3-(4-Methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine
A mixture of yellow mercuric oxide (0.68 g, 0.0031 mol), N-[3-(4-methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (1.01 g, 0.0026 mol) and methanolic ammonia solution (40 ml) was stirred for 2 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent and recrystallisation from acetonitrile gave the desired product. Yield 0.5 g (52%), m.p. 174°-175 ° C.

reactant | N-[3-(4-methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0026 mol, 1.01 g | CC1=CC=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=C1 | C20H18ClN3OS
reactant | ammonia | 40 ml | N | H3N
product | N-[3-(4-Methylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine | CC1=CC=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C=C1 | C20H19ClN4O
